US04958019
Synthesis of 7-amino-3-[(5-carboxy-2-hydroxymethyl-s-triazolo[1,5-a]pyrimidin-7-yl)thiomethyl]-3-cephem-4-carboxylic acid
In 130 ml of acetonitrile were suspended 8 g of 5-carboxy2-hydroxymethyl-7-mercapto-s-triazolo[1,5-a]pyrimidine and 9.53 g of 7-aminocephalosporanic acid and 17 ml of boron trifluoride - ethyl ether complex was added thereto, and the mixture was stirred at room temperature for 5 hours. To the reaction mixture was added 300 ml of water and the mixture was adjusted to pH 2 with conc. aqueous ammonia. Precipitated crystals were collected by filtration, washed with water and with acetone, and dried to obtain 10.1 g of the title compound.

reactant | 5-carboxy2-hydroxymethyl-7-mercapto-s-triazolo[1,5-a]pyrimidine | 8 g | C(=O)(O)C1=NC=2N(C(=C1)S)N=C(N2)CO | C7H6N4O3S
reactant | 7-aminocephalosporanic acid | 9.53 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | water | 300 ml | O | H2O
reactant | ammonia | N | H3N
solvent | acetonitrile | 130 ml | C(C)#N | C2H3N
product | 7-amino-3-[(5-carboxy-2-hydroxymethyl-s-triazolo[1,5-a]pyrimidin-7-yl)thiomethyl]-3-cephem-4-carboxylic acid | 10.1 g | NC1[C@@H]2N(C(=C(CS2)CSC2=CC(=NC=3N2N=C(N3)CO)C(=O)O)C(=O)O)C1=O | C15H14N6O6S2
